US08536183B2
1-[(6-Methyl-3-pyridinyl)carbonyl]-4-({4-[(trifluoromethyl)oxy]phenyl}sulfonyl)piperazine
To a solution of 1-[(6-methyl-3-pyridinyl)carbonyl]piperazine (may be prepared as described in Description 14) (100 mg, 0.487 mmol) in DMF (10 ml) was added 4-[(trifluoromethyl)oxy]benzenesulfonyl chloride (152 mg, 0.585 mmol). Finally DIPEA (0.255 ml, 1.462 mmol) was added and the reaction mixture was stirred at room temperature for 20 h. Solvent was removed by evaporation, the residue was dissolved in ethyl acetate and the solution extracted with saturated aqueous NaHCO3. The organic layer was dried over MgSO4, filtered and evaporated to dryness and the residue was purified by MDAP to yield the title compound (42 mg) as a white powder.

reactant | 1-[(6-methyl-3-pyridinyl)carbonyl]piperazine | 0.487 mmol, 100 mg | CC1=CC=C(C=N1)C(=O)N1CCNCC1 | C11H15N3O
reactant | 4-[(trifluoromethyl)oxy]benzenesulfonyl chloride | 0.585 mmol, 152 mg | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | DIPEA | 1.462 mmol, 0.255 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[(6-Methyl-3-pyridinyl)carbonyl]-4-({4-[(trifluoromethyl)oxy]phenyl}sulfonyl)piperazine | 42 mg | CC1=CC=C(C=N1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C18H18F3N3O4S
